US06756373B1
A suspension of 3-ethyl-4-nitro-1H-pyrazole-5-carboxamide (prepared as in WO98/49166) (40.0 g, 217 mmol) in dry DMF (300 ml) was treated with cesium carbonate (77.8 g, 239 mmol). To this, in a single portion, was added cyclopropylmethyl bromide (22.9 ml, 239 mmol) and the resultant suspension stirred at RT for 6 h. After condensation in vacuo, the residue was partioned between ethyl acetate (200 ml) and water (200 ml), and the insoluble material removed by filtration. The solid was partioned between water (200 ml) and methylene chloride (200 ml), and undissolved solid removed by filtration. Combined organics were washed with brine (100 ml), dried over MgSO4, and condensed to a solid (40 g). The two regioisomers were separated by crystallisation of the crude mixture. The more lipophilic component (Rf=0.27, methylene chloride:methanol 98:2) crystallising from a mixture of methylene chloride (50 ml) and diisopropylether (200 ml) to give 1-(cyclopropylmethyl)-3-ethyl-4-nitro-1H-pyrazole-5-carboxamide (12 g, 50 mmol). Crystallisation of the mother liquors from acetonitrile gave the more polar component (Rf=0.19, methylene chloride:methanol 98:2) (10 g, 42 mmol) which was confirmed as the 1-(cyclopropylmethyl)-5-ethyl-4-nitro-1H-pyrazole-3-carboxamide by nOe experiements. The mother liquors contained further material as a mixture of regioisomers (20 g, 84 mmol).

reactant | 3-ethyl-4-nitro-1H-pyrazole-5-carboxamide | C(C)C1=NNC(=C1[N+](=O)[O-])C(=O)N | C6H8N4O3
reactant | cesium carbonate | 239 mmol, 77.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | cyclopropylmethyl bromide | 239 mmol, 22.9 ml | C1(CC1)CBr | C4H7Br
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
solvent | water | 200 ml | O | H2O
product | 1-(cyclopropylmethyl)-3-ethyl-4-nitro-1H-pyrazole-5-carboxamide | 50 mmol, 12 g | C1(CC1)CN1N=C(C(=C1C(=O)N)[N+](=O)[O-])CC | C10H14N4O3
